US07504403B2
1-{2-[2-(2,4-Dichloro-phenyl)-ethylamino]-pyrimidin-4-yl}-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one.
Followed the same procedure in the synthesis of 1-(2-phenethylamino-pyrimidin-4-yl)-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one, the sulfoxide (0.11 g, 0.3 mmol) was displaced with 2-(2,4-dichlorophenyl)ethylamine (0.14 mL, 0.9 mmol) to give the title compound as a yellow solid. MS m/e 492 (M+H)+.

reactant | 1-(2-phenethylamino-pyrimidin-4-yl)-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one | C(CC1=CC=CC=C1)NC1=NC=CC(=N1)N1C=2N(CCC1)C(C=C(C2)C2=CC=CC=C2)=O | C26H25N5O
reactant | 2-(2,4-dichlorophenyl)ethylamine | 0.9 mmol, 0.14 mL | ClC1=C(C=CC(=C1)Cl)CCN | C8H9Cl2N
product | 1-{2-[2-(2,4-Dichloro-phenyl)-ethylamino]-pyrimidin-4-yl}-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one | ClC1=C(C=CC(=C1)Cl)CCNC1=NC=CC(=N1)N1C=2N(CCC1)C(C=C(C2)C2=CC=CC=C2)=O | C26H23Cl2N5O
